US07638536B2
To a solution of 0.70 g of 3-chloro-4-(4-hydroxypiperidino)benzoic acid in 15 ml of methylene chloride, 1.5 ml of 2,6-lutidine and 2.7 g of tert-butyldimethylsilyltriflate were added, and the mixture was stirred at room temperature for 2 weeks. To the reaction solution, EtOAc was added, and the organic layer was washed with water and brine and then dried over sodium sulfate. After the evaporation of the solvent, the obtained residue was purified by silica gel column chromatography (eluent: hexane-EtOAc=5:1˜4:1) to obtain 0.90 g of 4-(4-tert-butyldimethylsilyloxypiperidino)-3-chlorobenzoic acid methyl ester.

reactant | 3-chloro-4-(4-hydroxypiperidino)benzoic acid | 0.70 g | ClC=1C=C(C(=O)O)C=CC1N1CCC(CC1)O | C12H14ClNO3
reactant | tert-butyldimethylsilyltriflate | 2.7 g | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | 2,6-lutidine | 1.5 ml | N1=C(C=CC=C1C)C | C7H9N
product | 4-(4-tert-butyldimethylsilyloxypiperidino)-3-chlorobenzoic acid methyl ester | 0.90 g | COC(C1=CC(=C(C=C1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C)Cl)=O | C19H30ClNO3Si
